US04698337
A solution of 7-[2-(2-formamidothiazol-4-yl)-2-cyanomethoxyiminoacetamido]-3-(1-allyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid (syn isomer, 2.1 g.) and conc. hydrochloric acid (1.6 g.) in methanol 21 ml.) and tetrahydrofuran (5 ml.) was treated in a similar manner to that of Example 9-(2) to give 7-[2-(2-aminothiazol-4-yl)-2-cyanomethoxyiminoacetamido]-3-(1-allyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid (syn isomer, 1.40 g.).

reactant | 7-[2-(2-formamidothiazol-4-yl)-2-cyanomethoxyiminoacetamido]-3-(1-allyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid | 2.1 g | C(=O)NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)CSC2=NN=NN2CC=C)C(=O)O)C1=O)=NOCC#N | C20H18N10O6S3
reactant | hydrochloric acid | 1.6 g | Cl | ClH
reactant | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | methanol | 21 ml | CO | CH4O
product | 7-[2-(2-aminothiazol-4-yl)-2-cyanomethoxyiminoacetamido]-3-(1-allyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid | 1.40 g | NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)CSC2=NN=NN2CC=C)C(=O)O)C1=O)=NOCC#N | C19H18N10O5S3
